US04399301
7-methylene-2,9-undecadiene-1-ol was prepared from 2,7-octadiene-1-ol and butadiene by employing a catalyst which had an atomic ratio of trivalent phosphorus to rhodium of 3.

reactant | 2,7-octadiene-1-ol | C(C=CCCCC=C)O | C8H14O
reactant | butadiene | C=CC=C | C4H6
reactant | phosphorus | [P] | P
catalyst | rhodium | [Rh] | Rh
product | 7-methylene-2,9-undecadiene-1-ol | C=C(CCCC=CCO)CC=CC | C12H20O
